US07273877B2
2-Fluoro-4-methylaniline and ethyl 4,6-dichloronicotinate were reacted in a mixture of EtOH and conc. HCl as for example 33, step A. The resultant solid was isolated by filtration and washed with 10% Et2O/Hexane, to give ethyl 6-chloro-4-(2-fluoro-4-methylanilino)nicotinate (44%); m.p. (EtOH/water) 107-109° C. 1H NMR [400 MHz, CDCl3] δ 9.63 (br s, 1H), 8.77 (s, 1H), 7.20 (t, J=8.2 Hz, 1H), 7.05-6.99 (m, 2H), 6.65 (d, J=1.6 Hz, 1H), 4.41 (q, J=7.1 Hz, 2H), 1.43 (t, J=7.1 Hz, 3H). MS (FAB+) 309 (40%).

reactant | 2-Fluoro-4-methylaniline | FC1=C(N)C=CC(=C1)C | C7H8FN
reactant | ethyl 4,6-dichloronicotinate | ClC1=CC(=NC=C1C(=O)OCC)Cl | C8H7Cl2NO2
reactant | HCl | Cl | ClH
solvent | EtOH | CCO | C2H6O
product | ethyl 6-chloro-4-(2-fluoro-4-methylanilino)nicotinate | 44% | ClC1=NC=C(C(=O)OCC)C(=C1)NC1=C(C=C(C=C1)C)F | C15H14ClFN2O2
